.options nonlin continuation=gmin
.options timeint method=trap
.options device temp=25
**.options output initial_interval=1e-8
.options parser model_binning=true

* Scale the values of the device parameters
*.options parser scale=1E-6

* -- Model Includes and Std Cell Includes --

.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "/foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
**.lib "/home/chandru/PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
**.include "../../../PDK/skywater-pdk/libraries/sky130_fd_pr/latest/models/r+c/res_typical__cap_typical__lin.spice"
**.include "../../../PDK/skywater-pdk/libraries/sky130_fd_pr/latest/models/r+c/res_typical__cap_typical.spice"
**.lib ../../../PDK/skywater-pdk/libraries/sky130_fd_pr/latest/models/sky130.lib.spice tt


.param kw = 1
.param pvdd = 1.8

* --- Voltage Sources ---
vdd   supply  0 dc 'pvdd'
vsig  vi  0 dc 'pvdd'

* --- Mos Subcircuit ---
*    d     G  S B
XM1 supply vi 0 0 sky130_fd_pr__nfet_01v8_lvt L=0.15 W=0.42
XM2 supply vi 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42
XM3 0 vi supply 0 sky130_fd_pr__pfet_01v8_lvt L=0.15 W=0.42
XM4 0 vi supply 0 sky130_fd_pr__pfet_01v8 L=0.15 W=0.42
XM5 0 vi supply 0 sky130_fd_pr__pfet_01v8_hvt L=0.15 W=0.42
*XM6 supply vi 0 0 sky130_fd_pr__nfet_03v3_nvt L=0.15 W=0.42
*XM7 supply vi 0 0 sky130_fd_pr__nfet_05v0_nvt L=0.15 W=0.42



* --- Analysis ---
*.tran 10n 5u
.op
.DC vsig 0 1.8 0.1
*.DC kw 1 20 1
*.DC Idd 0 100e-3 0.05e-3


* --- Result Print---
.print dc FORMAT=GNUPLOT V(vi)
.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8_lvt:Vth)
.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8_lvt:gds)
.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8_lvt:gm)
.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8_lvt:Vdsat)
.print dc FORMAT=GNUPLOT N(XM2:MSKY130_FD_PR__NFET_01V8:Vth)
.print dc FORMAT=GNUPLOT N(XM2:MSKY130_FD_PR__NFET_01V8:gds)
.print dc FORMAT=GNUPLOT N(XM2:MSKY130_FD_PR__NFET_01V8:gm)
.print dc FORMAT=GNUPLOT N(XM2:MSKY130_FD_PR__NFET_01V8:Vdsat)
.print dc FORMAT=GNUPLOT ID(XM2:MSKY130_FD_PR__NFET_01V8)
**.print dc FORMAT=GNUPLOT I(XM2)
**.print dc FORMAT=GNUPLOT N(XM3:msky130_fd_pr__pfet_01v8_lvt:Vth)
**.print dc FORMAT=GNUPLOT N(XM3:msky130_fd_pr__pfet_01v8_lvt:gds)
**.print dc FORMAT=GNUPLOT N(XM3:msky130_fd_pr__pfet_01v8_lvt:gm)
**.print dc FORMAT=GNUPLOT N(XM3:msky130_fd_pr__pfet_01v8_lvt:Vdsat)
.print dc FORMAT=GNUPLOT N(XM4:MSKY130_FD_PR__PFET_01V8:Vth)
.print dc FORMAT=GNUPLOT N(XM4:MSKY130_FD_PR__PFET_01V8:gds)
.print dc FORMAT=GNUPLOT N(XM4:MSKY130_FD_PR__PFET_01V8:gm)
.print dc FORMAT=GNUPLOT N(XM4:MSKY130_FD_PR__PFET_01V8:Vdsat)
.print dc FORMAT=GNUPLOT N(XM5:MSKY130_FD_PR__PFET_01V8_HVT:Vth)
.print dc FORMAT=GNUPLOT N(XM5:MSKY130_FD_PR__PFET_01V8_HVT:gds)
.print dc FORMAT=GNUPLOT N(XM5:MSKY130_FD_PR__PFET_01V8_HVT:gm)
.print dc FORMAT=GNUPLOT N(XM5:MSKY130_FD_PR__PFET_01V8_HVT:Vdsat)
*.print dc FORMAT=GNUPLOT N(XM6:MSKY130_FD_PR__PFET_01V8:Vth)
*.print dc FORMAT=GNUPLOT N(XM6:MSKY130_FD_PR__PFET_01V8:gds)
*.print dc FORMAT=GNUPLOT N(XM6:MSKY130_FD_PR__PFET_01V8:gm)
*.print dc FORMAT=GNUPLOT N(XM6:MSKY130_FD_PR__PFET_01V8:Vdsat)
*.print dc FORMAT=GNUPLOT N(XM7:MSKY130_FD_PR__PFET_01V8:Vth)
*.print dc FORMAT=GNUPLOT N(XM7:MSKY130_FD_PR__PFET_01V8:gds)
*.print dc FORMAT=GNUPLOT N(XM7:MSKY130_FD_PR__PFET_01V8:gm)
*.print dc FORMAT=GNUPLOT N(XM7:MSKY130_FD_PR__PFET_01V8:Vdsat)

.print dc FORMAT=GNUPLOT I(*) V(*)

*.print dc FORMAT=GNUPLOT N(XM1:VDSSAT)
*.print dc FORMAT=GNUPLOT N(XM1:VGS)
*.print dc FORMAT=GNUPLOT N(XM1:VDS)
*.print dc FORMAT=GNUPLOT N(XM1:GDS)
*.print dc FORMAT=GNUPLOT {kw}
*.print dc FORMAT=GNUPLOT N(XM1:CGG)
**.print tran {v(vi)+1} {v(vo)+1}
**comp {v(vi)+1} reltol=1e-2
**comp {v(vo)+1} reltol=1e-2  abstol=1e-5 zerotol=1e-8
.end
